US05660814
According to the procedure described in Example 1, 52.1 g of bromoacetic acid (0.375 mol) are reacted with 62 g of compound (B) 3-[6- [[[2-[(aminoethyl)amino]ethyl]amino]acetylamino]-1-oxohexyl]amino-α-ethyl-2,4,6-triiodobenzenepropanoic acid (0.075 mol) in 400 ml of H2O. 32.9 g of 18-[[3-(2-carboxybutyl)-2,4,6-triiodophenyl]amino]-3,6,9-tris(carboxymethyl)-11,18-dioxo-3,6,9,12-tetraazaoctadecanoic acid (0.031 mol) are obtained.

reactant | bromoacetic acid | 0.375 mol, 52.1 g | BrCC(=O)O | C2H3BrO2
reactant | 3-[6- [[[2-[(aminoethyl)amino]ethyl]amino]acetylamino]-1-oxohexyl]amino-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 0.075 mol | NCCNCCNCC(=O)NCCCCCC(=O)NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C23H36I3N5O4
solvent | H2O | 400 ml | O | H2O
product | 18-[[3-(2-carboxybutyl)-2,4,6-triiodophenyl]amino]-3,6,9-tris(carboxymethyl)-11,18-dioxo-3,6,9,12-tetraazaoctadecanoic acid | 0.031 mol, 32.9 g, Yield: 41% | C(=O)(O)C(CC=1C(=C(C(=CC1I)I)NC(CCCCCNC(CN(CCN(CCN(CC(=O)O)CC(=O)O)CC(=O)O)CC(=O)O)=O)=O)I)CC | C31H44I3N5O12
